US05354880
Under a nitrogen atmosphere, isobutyronitrile (297.4 grams, 4.3 moles) and sodium metal spheres (9.9 grams, 0.43 moles) were added to a flask as described in Example 6. The contents of the flask were heated to 103° C with stirring and vinyltrimethoxysilane (637.8 grams, 4.3 moles) was added. After removing the heat source, the temperature of the flask contents was maintained at 100° C. to 107° C. by the rate of addition of the vinyltrimethoxysilane. After adding all of the vinyltrimethoxysilane, the flask contents were heated to 150° C. for one hour to ensure complete reaction. A sample taken for infra-red analysis showed no signs of any absorption attributable to a vinyl group on silicon. The infra-red spectrum was entirely consistent with the proposed structure and indicated a high state of purity. After cooling to room temperature, 25.8 grams (0.43 moles) of glacial acetic acid was added to neutralize any residual basic material. The reaction product was filtered and vacuum distilled (boiling point, 76° C. to 77° C. at 0.3 mm Hg) to yield 681.4 grams (73% yield after distillation) of 3-cyano-3-methylbutyltrimethoxysilane, as characterized by 1H and 13C NMR spectroscopy.

reactant | isobutyronitrile | 4.3 moles, 297.4 grams | C(C(C)C)#N | C4H7N
reactant | sodium | [Na] | Na
reactant | vinyltrimethoxysilane | 4.3 moles, 637.8 grams | C(=C)[Si](OC)(OC)OC | C5H12O3Si
reactant | acetic acid | 0.43 moles, 25.8 grams | C(C)(=O)O | C2H4O2
product | 3-cyano-3-methylbutyltrimethoxysilane | 681.4 grams, 73% yield | C(#N)C(CC[Si](OC)(OC)OC)(C)C | C9H19NO3Si
